US06589978B2
(2RS,5RS)-1{-4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyl}-1H-pyrazole
The title compound, colorless oil, MS: m/e=442.4 (M+H+), was prepared in accordance with the general method of example 82b from (2RS,5RS)-2-(4-chloro-butyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 1H-pyrazole.

reactant | (2RS,5RS)-2-(4-chloro-butyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClCCCCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C21H25ClFNO2S
reactant | 1H-pyrazole | N1N=CC=C1 | C3H4N2
product | (2RS,5RS)-1{-4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyl}-1H-pyrazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCCN1N=CC=C1 | C24H28FN3O2S
